US07524856B2
5-Fluoro-3H-spiro[1-benzofuran-2,4′-piperidine]
Hydrobromic acid (48%, 60 mL) was added to a solution of the crude tert-butyl 4-(5-fluoro-2-methoxybenzyl)-4-hydroxypiperidine-l-carboxylate (86 g) in acetic acid (300 mL). The mixture was heated at reflux for 5 hours. Further hydrobromic acid (48%, 60 mL) was added and reflux continued for 24 hours. The mixture was cooled to room temperature, added to water (2 L) and extracted with tert.-butyl methyl ether (2×500 mL). The aqueous phase was adjusted to pH>10 by addition of 50 wt. % sodium hydroxide solution and extracted with tert.-butyl methyl ether (2L+1L). Organic extracts were dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure. The residual solid was crystallised from tetrahydrofuran/tert.-butyl methyl ether (4:1, 500 mL) to give the title compound (20 g). 1H-NMR (CD3OD, 400 MHz): δ 6.92-6.87 (m, 1H); 6.81-6.75 (m, 1H); 6.64 (dd, J=4.2, 8.7 Hz, 1H); 3.08-2.98 (m, 4H); 2.89-2.81 (m, 2H); 1.91-1.83 (m, 2H); 1.78-1.69 (m, 2H).

reactant | Hydrobromic acid | 60 mL | Br | BrH
reactant | tert-butyl 4-(5-fluoro-2-methoxybenzyl)-4-hydroxypiperidine-l-carboxylate | 86 g | FC=1C=CC(=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C1)OC | C18H26FNO4
reactant | hydrobromic acid | 60 mL | Br | BrH
reactant | water | 2 L | O | H2O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 5-Fluoro-3H-spiro[1-benzofuran-2,4′-piperidine] | 20 g | FC=1C=CC2=C(CC3(CCNCC3)O2)C1 | C12H14FNO
